US07893250B2
Presence of 8-oxo-2′-deoxyguanosine
The H2O2-UV irradiated slides or slides produced with cells grown in presence of either Cd+Cr+H2O2 or 5-azacytidine, or sodium butyrate are incubated overnight at 4° C. in the presence of 30 μl of an anti-8-oxo-dG mouse monoclonal antibody (Gentaur) diluted 1/100 in 10 mM Tris-HCl, pH 7.5, 10% Foetal Bovine Serum. The slides are washed once in PBS and then incubated for 40 minutes in the presence of a goat anti-mouse IgG1 antibody (southern Biotechnology Associates, Inc) diluted at a concentration of 0.1 μg/1×106 cells in PBS.

reactant | H2O2 | OO | H2O2
reactant | 5-azacytidine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)N=C1 | C8H12N4O5
reactant | sodium butyrate | C(CCC)(=O)[O-].[Na+]
reactant | Tris-HCl | 10 mM | C(C(CO)(CO)N)O.Cl
product | 8-oxo-2′-deoxyguanosine | O=C1N([C@H]2C[C@H](O)[C@@H](CO)O2)C2=NC(=NC(C2=N1)=O)N | C10H11N5O5
